US03987047
9.11-Dimethyl-1,2,4,5-tetrahydro-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester hydrochloride
1.1 gm (5 millimols) of 9,11-dimethyl-1,2,4,5-tetrahydro-3H-azepino[4,5-b]quinoline were dissolved in 30 ml of benzene, and a solution of 1 gm (10 millimols) of triethylamine in 10 ml of benzene and then 1.08 gm (10 millimols) of ethyl chloroformate were added, and the resulting mixture was heated at its boiling point for 2 hours. The cooled reaction mixture was admixed with 50 ml of ice water, and the aqueous mixture was made alkaline with 2 N sodium hydroxide. The benzene phase was separated, and the aqueous layer was extracted with chloroform. The benzene phase and the chloroform extract were combined, dried over sodium sulfate, and the solvents were distilled off. For conversion into the hydrochloride, the residual base was dissolved in hot acetone, and the solution was acidified with isopropanolic hydrochloric acid, whereupon the hydrochloride crystallized out.

reactant | 9,11-dimethyl-1,2,4,5-tetrahydro-3H-azepino[4,5-b]quinoline | 5 millimols, 1.1 gm | CC1=CC=2C(=C3C(=NC2C=C1)CCNCC3)C | C15H18N2
reactant | triethylamine | 10 millimols, 1 gm | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 10 millimols, 1.08 gm | ClC(=O)OCC | C3H5ClO2
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | 9.11-Dimethyl-1,2,4,5-tetrahydro-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester hydrochloride | Cl.C(C)OC(=O)N1CCC2=NC=3C=CC(=CC3C(=C2CC1)C)C | InChI=1S/C18H22N2O2.ClH/c1-4-22-18(21)20-9-7-14-13(3)15-11-12(2)5-6-16(15)19-17(14)8-10-20;/h5-6,11H,4,7-10H2,1-3H3;1H
